US07785430B2
Repeated treatments were made by a solution of HF and KF at a molar ratio of 1:1 being added to suspensions of aluminium powder (Carlfors Bruk A100) in pure water at temperatures from 10° C. to 80° C. The total concentration of fluoride in the treatment solutions varied between 0.1 and 5 M and the total amount of added fluoride was 0.1-5% of the molar amount of the aluminium. The fluoride solution was added to the suspension of aluminium powder under vigorous agitation, and the powder was filtered off and dried as soon as all fluoride solution had been added. A surface layer of tripotassium hexafluoroaluminate formed on the particles. FIG. 4 shows the TG graph for the thus treated powder where the total amount of added fluoride was 2%.

reactant | KF | [F-].[K+]
reactant | aluminium | [Al] | Al
solvent | water | O | H2O
product | tripotassium hexafluoroaluminate | [F-].[F-].[F-].[F-].[F-].[F-].[Al+3].[K+].[K+].[K+] | InChI=1S/Al.6FH.3K/h;6*1H;;;/q+3;;;;;;;3*+1/p-6
